US09255094B2
Preparation of 4-(1-(2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-2-hydroxypropan-2-yl)phenol (Compound No. 1-15)
To a stirred solution of 1-(1,2,3,4-tetrahydro-2,8-dimethylpyrido[4,3-b]indol-5-yl)-2-(4-methoxyphenyl)propan-2-ol (0.145 g, 0.39 mmol) in DCM (10 mL) at −78° C. was added borontribromide (0.293 g in 5 mL DCM). The reaction mixture was stirred at −78° C. for 30 min and then at 25° C. for 1 h. The solution was poured into ice water, saturated NaHCO3 was added, and the mixture extracted with EtOAc. The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The crude product was purified by column chromatography (silica gel, 0-75% MeOH:DCM) to give the product as an off-white solid, 20 mg. 1HNMR (CDCl3, Freebase) d (ppm): 7.25 (d, 1H), 7.10 (m, 3H), 6.98 (d, 1H), 6.70 (d, 2H), 4.10 (m, 2H), 3.82 (m, 2H), 2.80 (m, 2H), 2.60 (s, 3H), 2.42 (s, 3H), 2.38 (m, 2H), 1.60 (s, 3H).

reactant | 1-(1,2,3,4-tetrahydro-2,8-dimethylpyrido[4,3-b]indol-5-yl)-2-(4-methoxyphenyl)propan-2-ol | 0.39 mmol, 0.145 g | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(C)(O)C2=CC=C(C=C2)OC)CC1 | C23H28N2O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-(1-(2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-2-hydroxypropan-2-yl)phenol | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(C)(O)C2=CC=C(C=C2)O)CC1 | C22H26N2O2
